US07332499B2
N-{(1R)-1-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethyl}-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide, (1 g, 2.25 mmol), 1-bromo-2-methoxynaphthalene (534 mg (2.25 mmol), cesium carbonate (1.47 g 4.5 mmol), and bis(tri-t-butylphosphine) palladium (0) (6 mg 0.1 mmol) were stirred in anhydrous dioxane (4 mL) at 90 C overnight in a sealed tube. The reaction was cooled to room temperature and diluted with EtOAc, washed once each with water and brine. The organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with 0% to 50% EtOAc/hex. To afford N-{(1R)-1-[2-fluoro-4-(2-methoxy-1-naphthyl)phenyl]ethyl}-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide LC/MS (ES MS, M+H+ found: 475) and proton NMR (400 MHz, CDCl3) δ 1.2 (m, J=2.4 Hz, 2H), 1.58 (d, J=6.8 Hz, 3H), 1.7 (m, J=2.9 Hz, 2H), 3.86 (s, 3H), 5.33 (q, J=7.2 Hz, 1H), 6.64 (d, J=8.8 Hz, 1H), 6.84 (s, 1H), 7.08 to 7.19 (m, 3H), 7.34 (m, 3H), 7.47 (m, J=4.5 Hz, 1H), 7.81 (m, J=5 Hz, 1H), 7.9 (d, J=9 Hz, 1H).

reactant | N-{(1R)-1-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethyl}-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide | 2.25 mmol, 1 g | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)[C@@H](C)NC(=O)C1(CC1)NC(C(F)(F)F)=O | C20H25BF4N2O4
reactant | 1-bromo-2-methoxynaphthalene | BrC1=C(C=CC2=CC=CC=C12)OC | C11H9BrO
reactant | cesium carbonate | 4.5 mmol, 1.47 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(tri-t-butylphosphine) palladium (0) | 0.1 mmol, 6 mg | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | N-{(1R)-1-[2-fluoro-4-(2-methoxy-1-naphthyl)phenyl]ethyl}-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide | FC1=C(C=CC(=C1)C1=C(C=CC2=CC=CC=C12)OC)[C@@H](C)NC(=O)C1(CC1)NC(C(F)(F)F)=O | C25H22F4N2O3
